US04209626
6-(3-Methoxyphenyl)-1,2,4-triazolo[4,3-a]pyridine
In the manner described in Example 37, a mixture of 2-hydrazino-5-(3-methoxyphenyl)pyridine and ethyl orthoformate provides the product of the Example.

reactant | 2-hydrazino-5-(3-methoxyphenyl)pyridine | N(N)C1=NC=C(C=C1)C1=CC(=CC=C1)OC | C12H13N3O
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
product | 6-(3-Methoxyphenyl)-1,2,4-triazolo[4,3-a]pyridine | COC=1C=C(C=CC1)C=1C=CC=2N(C1)C=NN2 | C13H11N3O
